US05864039
To a solution of 3-hydroxy-4-hydroxymethylpiperidine (4.21 g) in dimethylformamide (100 ml) was added di-tert-butyl-dicarbonate, and the resulting mixture was stirred at room temperature for 22 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 6.5 g of 1-tert-butoxycarbonyl-3-hydroxy-4-hydroxymethylpiperidine.

reactant | 3-hydroxy-4-hydroxymethylpiperidine | 4.21 g | OC1CNCCC1CO | C6H13NO2
reactant | di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-tert-butoxycarbonyl-3-hydroxy-4-hydroxymethylpiperidine | 6.5 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)CO)O | C11H21NO4
